US08754242B2
To a solution of (1RS,2RS,6SR,7SR)-4-(2,6-diethyl-4-methylphenyl)-5-methoxy-10-oxa-tricyclo[5.2.1.02,6]deca-4,8-dien-3-one (0.052 g, 0.16 mmol) in methanol (10 ml) is added 5% palladium on carbon (10 mg). The reaction is stirred under an atmosphere of hydrogen for 90 minutes. The reaction is filtered through diatomaceous earth and the filter pad is washed with ethyl acetate (10 ml). The solvent is removed under reduced pressure to yield (1RS,2RS,6-SR,7SR)-4-(2,6-diethyl-4-methylphenyl)-5-methoxy-10-oxa-tricyclo[5.2.1.02,6]dec-4-en-3-one.

reactant | (1RS,2RS,6SR,7SR)-4-(2,6-diethyl-4-methylphenyl)-5-methoxy-10-oxa-tricyclo[5.2.1.02,6]deca-4,8-dien-3-one | 0.16 mmol, 0.052 g | C(C)C1=C(C(=CC(=C1)C)CC)C=1C(C2C3C=CC(C2C1OC)O3)=O | C21H24O3
solvent | methanol | 10 ml | CO | CH4O
catalyst | palladium on carbon | 10 mg | [Pd] | Pd
product | (1RS,2RS,6-SR,7SR)-4-(2,6-diethyl-4-methylphenyl)-5-methoxy-10-oxa-tricyclo[5.2.1.02,6]dec-4-en-3-one | C(C)C1=C(C(=CC(=C1)C)CC)C=1C(C2C3CCC(C2C1OC)O3)=O | C21H26O3
